US08258141B2
Q1: Acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester
A suspension of (1S,2R,3S,5R)-3-amino-5-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopentane-1,2-diol dihydrochloride (Intermediate JJ3) (250 mg, 0.46 mmol) in dry THF (10 ml) is treated with TEA (0.188 g, 1.86 mmol) followed by acetoxyacetylchloride (0.064 g, 0.46 mmol) and then stirred at room temperature for 30 minutes. The solvent is removed in vacuo and the solvent is partitioned between DCM and 0.1M HCl. The organic portion is separated and washed with brine, dried (MgSO4) and concentrated in vacuo to afford the title product.

reactant | (1S,2R,3S,5R)-3-amino-5-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-cyclopentane-1,2-diol dihydrochloride | 0.46 mmol, 250 mg | Cl.Cl.N[C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)O)O
reactant | acetoxyacetylchloride | 0.46 mmol, 0.064 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Acetic acid {(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentylcarbamoyl}-methyl ester | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(=O)COC(C)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H29ClN6O5
